US03943124
17β-Ethoxycarbonyl-3α-hydroxy-5α-androstan-11-one
A solution of 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid (500 mg.) in dry ethanol containing 3.3%, by weight, of hydrogen chloride (100 ml.) was refluxed for 2 hours.

reactant | 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)O | C20H30O4
reactant | hydrogen chloride | 100 ml | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 17β-Ethoxycarbonyl-3α-hydroxy-5α-androstan-11-one | C(C)OC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1C(C2)=O)O | C22H34O4
